US06329381B1
6-Amino-9-benzyl-8-bromo-2-(3-ethoxypropoxy)purine
6-Amino-9-benzyl-2-(3-ethoxypropoxy)purine (354 mg, 1.08 mmol) and bromine (1.0 ml) were dissolved in methylene chloride (50 ml). The solution was stirred at room temperature for 2 hours. Aqueous sodium thiosulfate was added to the reaction mixture. The organic layer was separated, dried on sodium sulfate and the solvent was removed. The residue was purified with silica gel chromatography (1% methanol/chloroform) to give the subject compound (289 mg, yield 66%).

reactant | 6-Amino-9-benzyl-2-(3-ethoxypropoxy)purine | 1.08 mmol, 354 mg | NC1=C2N=CN(C2=NC(=N1)OCCCOCC)CC1=CC=CC=C1 | C17H21N5O2
reactant | bromine | 1.0 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 6-Amino-9-benzyl-8-bromo-2-(3-ethoxypropoxy)purine | 289 mg, yield 66% | NC1=C2N=C(N(C2=NC(=N1)OCCCOCC)CC1=CC=CC=C1)Br | C17H20BrN5O2
